US07807709B2
Benzyl-cyclopropylmethyl-amine
A mixture of benzaldehyde (3 mL, 29.55 mmol), cyclopropanemethylamine (2.53 mL, 29.55 mmol), AcOH (1.7 mL, 29.55 mmol) in 1,2-dichloroethane (150 mL) is stirred at RT for 25 minutes. Sodium triacetoxyborohydride (8.8 g, 41.37 mmol) is added and the mixture further stirred overnight at RT. Sodium triacetoxyborohydride (3.13 g, 15 mmol) is again added to complete the reaction. The mixture is quenched by the addition of NaOH 1N (50 mL), the layers are separated and the aqueous phase is extracted twice with ether. The combined organic extracts are dried (Na2SO4), filtered and concentrated. The crude material is purified by flash chromatography on silica gel (eluent: CH2Cl2/MeOH 95:5 to 80:20+5% NH3) to give the title product. tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 4.91 min.

reactant | benzaldehyde | 29.55 mmol, 3 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | cyclopropanemethylamine | 29.55 mmol, 2.53 mL | C1(CC1)CN | C4H9N
reactant | AcOH | 29.55 mmol, 1.7 mL | CC(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 41.37 mmol, 8.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Sodium triacetoxyborohydride | 15 mmol, 3.13 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 150 mL | ClCCCl | C2H4Cl2
product | Benzyl-cyclopropylmethyl-amine | C(C1=CC=CC=C1)NCC1CC1 | C11H15N
